US06239129B1
Step a: 1-(3-Hydroxypropyl)-1H-indole-6-carbonitrile
0.776 mol (87 g) of potassium tert-butylate is added to a solution of 0.703 mol (100 g) of 6-cyanoindole in 2500 ml of tetrahydrofliran at 20° C. After 15 minutes' stirring, 1.41 mol (196 g) of 3-bromo-1-propanol are added and the reaction mixture is stirred for 24 hours at room temperature. After concentration, the residue is taken up in 1000 ml of dichioromethane, and the organic phase is washed with 500 ml of water an d then with 500 ml of a saturated sodium chloride solution. The organic phase is then dried and concentrated to yield the expected compound.

reactant | potassium tert-butylate | 0.776 mol, 87 g | CC(C)(C)[O-].[K+]
reactant | 6-cyanoindole | 0.703 mol, 100 g | C(#N)C1=CC=C2C=CNC2=C1 | C9H6N2
reactant | 3-bromo-1-propanol | 1.41 mol, 196 g | BrCCCO | C3H7BrO
product | 1-(3-Hydroxypropyl)-1H-indole-6-carbonitrile | OCCCN1C=CC2=CC=C(C=C12)C#N | C12H12N2O
